US07345180B2
1-Methyl-2,3-dihydro-1H-indole-5-carboxylic acid
Dichloromethane (2 ml) and triethylsilane (1 ml) were added to 1-methyl-1H-indole-5-carboxylic acid (100 mg). The mixture was cooled to 0° C., trifluoroacetic acid (1 ml) was added dropwise thereto, and the mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was concentrated under reduced pressure, and precipitate was collected by filtration. The precipitate was washed with ether and dried under reduced pressure to give the title compound (66 mg, Y.:65%).

reactant | triethylsilane | 1 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 1-methyl-1H-indole-5-carboxylic acid | 100 mg | CN1C=CC2=CC(=CC=C12)C(=O)O | C10H9NO2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | Dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-Methyl-2,3-dihydro-1H-indole-5-carboxylic acid | 66 mg, 65% | CN1CCC2=CC(=CC=C12)C(=O)O | C10H11NO2
